US09388189B2
(S)-2-(1-((5-(1-(2-Hydroxybenzyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (53 mg, 0.08 mmol) was treated with boron tribromide (1M in dichloromethane, 750 μL, 0.75 mmol) in dichloromethane (1.0 mL) and then with a solution of ammonia (7N in methanol, 750 μl, 5.25 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-methanol/acetonitrile 1:1) to obtain 20 mg (48% yield) of the title compound.

reactant | (S)-2-(1-((5-(1-(2-Methoxybenzyl)-1H-pyrazol-3-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 53 mg | COC1=C(CN2N=C(C=C2)C2=CN(C=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)COCC[Si](C)(C)C)C=CC=C1 | C38H43N9O3Si
reactant | boron tribromide | 0.75 mmol, 1M, 750 μL | B(Br)(Br)Br | BBr3
reactant | ammonia | 5.25 mmol, 7N, 750 μl | N | H3N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | (S)-2-(1-((5-(1-(2-Hydroxybenzyl)-1H-pyrazol-3-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 20 mg, 48% yield | OC1=C(CN2N=C(C=C2)C2=CNC=3N=CN=C(C32)N[C@@H](C)C3=NN2C(C(N3C3=CC=CC=C3)=O)=C(C=C2)C)C=CC=C1 | C31H27N9O2
